US06355799B1
Preparation of 3-[4-chloro-6-fluoro-3-methyl-2-(2-naphthoyl)aminophenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione
3-(2-Amino-4-chloro-6-fluoro-3-methylphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.5 g, 1.4 mmol) was dissolved in 1,4-dioxane (20 ml) and triethyl amine (0.29 g, 2.9 mmol) and 2-naphthoyl chloride (0.41 g, 2.2 mmol) were added. Solution was heated under reflux for 4 hr and solvent removed under reduced pressure. Product was subjected to column chromatography on silica gel and the title compound was eluted with hexane-ethyl acetate (8:2; 0.3 g).

reactant | 3-(2-Amino-4-chloro-6-fluoro-3-methylphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 1.4 mmol, 0.5 g | NC1=C(C(=CC(=C1C)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O2
reactant | triethyl amine | 2.9 mmol, 0.29 g | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 2.2 mmol, 0.41 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[4-chloro-6-fluoro-3-methyl-2-(2-naphthoyl)aminophenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C24H16ClF4N3O3
